US05811435
1-[4-[3-[4-(1H-Indazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanon
A mixture of 3-(4-piperidinyl)-1H-indazole (3.0 g, 15 mmol), K2 CO3 (1.6 g), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (5.3 g, 22 mmol), a few crystals of KI and acetonitrile (100 ml) was stirred and refluxed for 16 hours. The reaction was poured into water and a white solid separated from solution. The solid was collected, dried and afforded 5.1 g of product. Recrystallization from ethanol yielded 3.6 g of the compound, which upon chromatography (preparative HPLC on silica gel, eluting with methylene chloride/methanol--9:1) gave 3.0 g (49%) of an off-white solid. Recrystallization from ethanol afforded the analytically pure 1-[4-[3-[4-(1H-indazol-1 3-yl)-1-piperidinyl]-propoxy]-3-methoxyphenyl]ethanone as a white solid, m.p.=171°-173° C.

reactant | 3-(4-piperidinyl)-1H-indazole | 15 mmol, 3.0 g | N1CCC(CC1)C1=NNC2=CC=CC=C12 | C12H15N3
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 22 mmol, 5.3 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-[3-[4-(1H-Indazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanon | 5.1 g | N1N=C(C2=CC=CC=C12)C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC | C24H29N3O3
